US04518597
6-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 6-hydroxy-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one and 4-(4-methyl-phenylmercapto)-butylchloride.

reactant | 6-hydroxy-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one | OC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)C | C11H13NO3
reactant | 4-(4-methyl-phenylmercapto)-butylchloride | CC1=CC=C(C=C1)SCCCCCl | C11H15ClS
product | 6-[4-(4-Methyl-phenylmercapto)-butoxy]-4,4,7-trimethyl-4H-3,1-benzoxazin-2-one | CC1=CC=C(C=C1)SCCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)C | C22H27NO3S
